US05786352
Thionyl chloride (0.15 ml) and DMF (catalytic amount) were added to a THF (5 ml) solution of 2-chloro-4-phenyl-3-pyridinecarboxylic acid (145 mg) and heated under reflux for 2 hours. The solvent was removed by distillation, and the residue was dissolved in THF (5 ml). The resulting solution was added to a mixture of N-[3,5-bis(trifluoromethyl)benzyl]-N'-tert-butoxycarbonylethylenediamine (240 mg), triethylamine (0.26 ml) and THF (10 ml), while cooling with ice, and stirred for 3 hours at room temperature. The N-[3,5-bis (trifluoromethyl)benzyl]-N'-tert-butoxycarbonylethylenediamine used herein was prepared as an oily compound, by reacting ethylenediamine with 3,5-bis(trifluoromethyl)benzyl methanesulfonate in THF to give an oily compound of N- [3,5-bis (trifluoromethyl)benzyl]ethylenediamine, followed by further reacting the compound with di-tert-butyl dicarbonate in the presence of triethylamine in THF.

reactant | Thionyl chloride | 0.15 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 2-chloro-4-phenyl-3-pyridinecarboxylic acid | 145 mg | ClC1=NC=CC(=C1C(=O)O)C1=CC=CC=C1 | C12H8ClNO2
reactant | ethylenediamine | C(CN)N | C2H8N2
reactant | 3,5-bis(trifluoromethyl)benzyl methanesulfonate | CS(=O)(=O)OCC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C10H8F6O3S
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | DMF | CN(C)C=O | C3H7NO
product | N- [3,5-bis (trifluoromethyl)benzyl]ethylenediamine | FC(C=1C=C(CNCCN)C=C(C1)C(F)(F)F)(F)F | C11H12F6N2
